US06372770B1
2-(3-chlorophenyl)-7-(2-pyridylmethylamino)benzoxazole
To a stirred suspension of 2-(3-chlorophenyl)-7-amino-benzoxazole (1.10 g, 0.0045 mol) in 10 ml of methanol, 2.5 ml of 1 N HCl in methanol, was added. 2-pyridinecarboxaldehyde(0.043 g, 0.0040 mol) was added to this suspension followed by sodium cyanoborohydride (0.32 g, 0.0051 mol) and the pH was adjusted to 6 using 1 N HCl in methanol. After 1 hour, 1 N sodium hydroxide was added to bring the pH to 10 and the reaction was extracted with 3×50 ml of ethyl acetate. The combined ethyl acetate extractions were washed with water, dried and evaporated to give 1.3 g of yellow solid. This solid was purified by flash chromatography over silica gel using 50:50 CH2Cl2 in hexane to give 0.25 g of recovered starting material, followed by 0.90 g of product when the eluting solvent was CH2Cl2. This solid was recrystallized from 100 ml of hexane to give 0.78 g of the title compound, mp 115-116° C.

reactant | 2-(3-chlorophenyl)-7-amino-benzoxazole | 0.0045 mol, 1.10 g | ClC=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2N | C13H9ClN2O
reactant | 2-pyridinecarboxaldehyde | 0.0040 mol, 0.043 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium cyanoborohydride | 0.0051 mol, 0.32 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | HCl | 1 N, 2.5 ml | Cl | ClH
solvent | HCl | 1 N | Cl | ClH
product | 2-(3-chlorophenyl)-7-(2-pyridylmethylamino)benzoxazole | 1.3 g | ClC=1C=C(C=CC1)C=1OC2=C(N1)C=CC=C2NCC2=NC=CC=C2 | C19H14ClN3O
